US06878722B2
Steps 6Ib-6Ic: Preparation of N-tert-Butyl-(1-benzoyl)cyclopropyl-sulfonamide
Steps 6Ib-6Ic) This compound was obtained in 66% yield using the procedure described for the synthesis of N-tert-Butyl-(1-methyl)cyclopropylsulfonamide except 1.2 equivalents of methyl benzoate was used as the electrophile. The compound was purified by column chromatography over SiO2 using 30% to 100% CH2Cl2 in hexane: 1H NMR (CDCl3) δ 1.31 (s, 9H), 1.52 (m, 2H), 1.81 (m, 2H), 4.16 (bs, 1H), 7.46 (m, 2H), 7.57 (m, 1H), 8.05 (d, J=8.5 Hz, 2H).

reactant | N-tert-Butyl-(1-methyl)cyclopropylsulfonamide | C(C)(C)(C)NS(=O)(=O)C1(CC1)C | C8H17NO2S
reactant | methyl benzoate | 1.2 equivalents | C(C1=CC=CC=C1)(=O)OC | C8H8O2
product | N-tert-Butyl-(1-benzoyl)cyclopropyl-sulfonamide | 66% yield | C(C)(C)(C)NS(=O)(=O)C1(CC1)C(C1=CC=CC=C1)=O | C14H19NO3S
